.SUBCKT LT1228     1 2 3 4 5 6 7 8
*
* THE OTA
Q11 5 5 21 QN 10
Q12 21 21 22 QN 10
VC 22 4 DC 0
F1 26 4 VC 0.375
F2 27 4 VC 0.25
F3 28 4 VC 0.375
F4 7 23 VC 1.6
F5 7 24 VC 1.6
VB 7 25 DC 1.4
CE1 23 7 11PF
CE2 24 7 11PF
RE13 23 32 120
RE14 24 33 120
Q13 29 25 32 QPI
Q14 1 25 33 QPI
Q15 23 3 28 QNI 9
Q16 23 3 27 QNI
Q17 23 3 26 QNI
Q18 24 2 26 QNI 9
Q19 24 2 27 QNI
Q20 24 2 28 QNI
VM 29 4 DC 1.4
FM 1 4 VM 1
DM 29 1 DC
C1 1 7 5PF
*
* THE CFA
Q2A 4 1 10 QP 0.5
Q3A 11 10 200 QN
Q4A 11 11 7 QP
Q5A 9 11 7 QP
Q6A 12 11 7 QP
Q7A 4 9 12 QP
Q8A 7 12 13 QN 10
RSCA 13 6 10
IBA 7 10 DC 300U
*
Q2B 7 1 110 QN 0.5
Q3B 111 110 200 QP
Q4B 111 111 4 QN
*
Q5B 9 111 4 QN
Q6B 112 111 4 QN
Q7B 7 9 112 QN
Q8B 4 112 113 QP 10
RSCB 6 113  10
IBB 110 4 DC 300U
*
RC 8 200 20
R9 9 0 201600
D1 9 6 DC
D2 6 9 DC
*
.MODEL DC D
.MODEL QNI NPN
.MODEL QN NPN (IS=168E-18 BF=150 ISC=40E-18 NC=1 RB=250 RE=8 RC=100 CJE=0.37P VJE=0.65 MJE=0.33 FC=0.7 CJC=0.8P VJC=0.62 MJC=0.44 TF=300P
.MODEL QPI PNP
.MODEL QP PNP (IS=230E-18 BF=150 ISC=113E-18 NC=1 RB=250 RE=8 RC=100 CJE=0.34P VJE=0.75 MJE=0.40 FC=0.7 CJC=0.8P VJC=0.5 MJC=0.36 TF=300P
*
.ENDS LT1228
