.SUBCKT LT1230     3 2 7 4 6
*
Q2A 4 3 10 QP 0.5
Q3A 11 10 200 QN
Q4A 11 11 7 QP
Q5A 9 11 7 QP
Q6A 12 11 7 QP
Q7A 4 9 12 QP
Q8A 7 12 13 QN 10
RSCA 13 6 10
IBA 7 10 DC 300U
*
Q2B 7 3 110 QN 0.5
Q3B 111 110 200 QP
Q4B 111 111 4 QN
*
Q5B 9 111 4 QN
Q6B 112 111 4 QN
Q7B 7 9 112 QN
Q8B 4 112 113 QP 10
RSCB 6 113  10
IBB 110 4 DC 300U
*
RC 2 200 20
R9 9 0 201600
D1 9 6 DC
D2 6 9 DC
*
.MODEL DC D
*
.MODEL QN NPN (IS=168E-18 BF=150 ISC=40E-18 NC=1 RB=250 RE=8 RC=100 CJE=0.37P VJE=0.65 MJE=0.33 FC=0.7 CJC=0.8P VJC=0.62 MJC=0.44 TF=300P
*
.MODEL QP PNP (IS=230E-18 BF=150 ISC=113E-18 NC=1 RB=250 RE=8 RC=100 CJE=0.34P VJE=0.75 MJE=0.40 FC=0.7 CJC=0.8P VJC=0.5 MJC=0.36 TF=300P
*
.ENDS LT1230
