.SUBCKT LT1328     IN FILTER FSW GND DATA VCC MODE VBIAS
* PIN NUMBER        1   2     3   4   5    6   7     8
* PREAMP
GPREAMP 0 VPG NVB IN 7.7E-3
QC1 VPG VPG VC1 NPN
VC1 VC1 GND DC 4
QC2 VC2 VC2 VPG NPN
VC2 VC2 GND DC 1
RPREG VPG 0 200K
CPREG VPG 0 10PF
EPREAMP PREOUT1 0 VPG 0 1
RFB IN PREOUT1 50K
RBPRE PREOUT1 RB 1K
REPRE IN RE 25
QPRE VCC RB RE [GND] NPN 10X
QDPRE IN IN PREOUT1 [GND] NPN
*
* BIAS
VBIAS  NVB 0 DC 1.4V
*
* AC LOOP
GAC 0 FILTER PREOUT1 NVB 16.7E-6
EAC NAC 0 FILTER 0 1
RFILTER FILTER 0 10MEG
QC3 FILTER FILTER VC3 NPN
VC3 VC3 GND DC 4
QC4 VC4 VC4 FILTER NPN
VC4 VC4 GND DC 1
RIN IN NAC 2K
*
* THRESHOLD
VT VP1 PREOUT1 DC .7V
RVP VP1 VP 10K
QP VCC VP   NEP   [GND] NPN
QB VCC PRE  VBIAS [GND] NPN
RBQB PRE VP      2K
RTH  NEP PREOUT  500
IP PREOUT GND DC 10U
IB VBIAS  GND DC 10U
*
* COMPARATOR
GCOMP 0 NCOMP VBIAS PREOUT 2
QC5  NCOMP NCOMP VC5   [GND] NPN
VC5 VC5 GND DC 4.3V
QC6  VC6 VC6 NCOMP [GND] NPN
VC6 VC6 GND DC .7V
*
QC7  NCT   NCT   NCOMP [GND] NPN
QC8  NCT   NCT   NCO   [GND] NPN
QC9  NCOMP NCOMP NCB   [GND] NPN
QC10 NCO   NCO   NCB   [GND] NPN
ICT VCC NCT DC 400UA
ICB NCB GND DC 2MA
CCOMP NCO 0 10PF
QC11 NCO  NCO  VC11 [GND] NPN
VC11 VC11 GND DC 3.6
QC12 VC12 VC12 NCO  [GND] NPN
VC12 VC12 GND DC 1.2
*TCOMP NCO 0 NCOT 0 ZO=100MEG TD=100NS
ECOMP DATA 0 LAPLACE {V(NCO)} = {EXP(-S*200N)}  ; 0 1
*
* FILTER SWITCH
RF MODE NSW 10K
QF1 NSW NSW NSWE NPN
RF2 NSWE NSWB 5K
QF2 FSW NSWB GND NPN 50X
ICC VCC 0 DC 1.6mA
IEE 0 GND DC -8.2mA
.MODEL NPN NPN (BF=200 IS=1E-16 NF=1 NE=1.5 NC=2 NK=.5)
*
.ENDS LT1328
