.SUBCKT LT1355     3 2 7 4 6 
* INPUT
RC1 7  80 1.3263E+03
RC2 7  90 1.3263E+03
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  2.0000E-12
*INPUT POLE AT 75MHZ
C1  80 90 0.8E-12
RE1 10 12 +1.3133E+03
RE2 11 12 +1.3133E+03
IEE 12 4  4.0002E-03
RE  12 0  4.9998E+04
* INTERMEDIATE 
GCM 8  0  12 0  1.0650E-08
GA  8  0  78 0  7.5398E-04
R2  8  0  21.9E+06
C2  8  0  9.6E-12
DC1 8  7  DM3
DC2 4  8  DM3
*
*POLE AT 75MHZ
GX1 0  28 90 80 1E-06
RX1 28 0  1E+06
CX1 28 0  2.12E-15
*POLE AT 75MHZ
GX2 0  38 28 0  1E-06
RX2 38 0  1E+06
CX2 38 0  2.12E-15
*POLE AT 75MHZ
GX3 0  48 38 0  1E-06
RX3 48 0  1E+06
CX3 48 0  2.12E-15  
*ZERO AT 12.5MHZ
GX4 0  58 48 0  1E-06
RX4 58 59 1E+06
LX4 59 0  12.7E-03
*POLE AT 25MHZ
GX5 0  68 58 0  1E-06
RX5 68 0 1E+06
CX5 68 0 6.37E-15
*POLE AT 75MHZ
GX6 0  78 68 0  1E-06
RX6 78 0  1E+06
CX6 78 0  2.12E-15
*
EB  1  0  8  0  1
RO2 1  6  5.000E+01
RF  8  99 2000
CF  99 6  7.5E-12
* OUTPUT 
ECL 18 1  6  1  0.375
Q3 7 18 8 QM3
Q4 4 18 8 QM4
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 8  0  70 7  1.0000E+00
VC  13 6  3.2317E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 8  0  60 4  1.0000E+00
VE  6  14 3.2317E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  -.3000E-02
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=2.2222E+04)
.MODEL QM2 NPN (IS=8.0847E-16 BF=2.8571E+04)
.MODEL QM3 NPN (IS=8.0000E-16 BF=100)
.MODEL QM4 PNP (IS=8.0000E-16 BF=100)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=4.3200E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1355
